US04200578
N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(2-guanidinothiazol-4-yl)methylthio]ethyl}guanidine (BL-6116)
A mixture of N-cyano-N'-{2-[(2-guanidinothiazol-4-yl)methylthio]ethyl}-S-methylisothiourea [prepared according to the procedure described in South Africa Pat. No. 78/2129] (3.0 g; 9.11 mmoles) and propargylamine (6.0 ml) in methanol (15 ml) was stirred and heated at reflux temperature under a positive pressure of nitrogen for 20 hours. The reaction mixture was evaporated under reduced pressure and the residue triturated with isopropanol and filtered to give product (1.5 g). Recrystallization from nitromethane gave the title compound, mp 146°-148°.

reactant | N-cyano-N'-{2-[(2-guanidinothiazol-4-yl)methylthio]ethyl}-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1N=C(SC1)NC(=N)N | C10H15N7S3
reactant | propargylamine | 6.0 ml | C(C#C)N | C3H5N
solvent | methanol | 15 ml | CO | CH4O
product | N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(2-guanidinothiazol-4-yl)methylthio]ethyl}guanidine | 1.5 g | C(#N)NC(=NCCSCC=1N=C(SC1)NC(=N)N)NCC#C | C12H16N8S2
